US03944531
By the procedure described in Example 38, diethylamine is reacted with 4-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-benzoic acid methyl ester to produce 4-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-N,N-diethyl-benzamide (boiling point = 180°-182°C/0.1 mmHg).

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 4-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC(CCCC(C)C)C)OC)=O | C17H26O4
product | 4-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-N,N-diethyl-benzamide | CC(CCCC(C)C)OC1=C(C=C(C(=O)N(CC)CC)C=C1)OC | C20H33NO3
